*****************************************************************
* NXP PSMN5R8_30LL
*
* Polarity N-Channel
* Ratings 30V/5.80E-03OHMS/10A
*
* Date Created Fri Jul 30 02:02:26 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN5R8_30LL DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.2513272
RLD1 5 4 0.0001
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.0005

RDS 7 4 3000000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00329908879833765 TC=0.0045846152573004,2.08016856422019e-05
RBD 9 4 0.00125328976256333 TC=0.0045846152573004,2.08016856422019e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 20000000000
CGS 2 6 1.15e-09
RG 1 2 1.18060161358437

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1634
+ -10	1618
+ -5	1583
+ -4	1577
+ -3	1563
+ -2	1489
+ -1	1059
+ -0.5	820
+ -0.2	697
+ -0.1	655
+ 0	614
+ 0.1	558
+ 0.2	506
+ 0.5	392
+ 1	304
+ 2	243
+ 5	190
+ 10	160
+ 12	154
+ 20	139
+ 25	133


.MODEL MINT NMOS(Vto=2.05 Kp=1.40e+02 Nfs=450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=35.00 Ibv=2.50E-04 Rs=1E-6 Is=4.12264332519947e-13
+ N=1 M=0.59 VJ=0.56 Fc=0.5 Cjo=9.49e-10 Tt=3.45e-08)

.ENDS
